US07148226B2
[3-(methylsulfonyl)phenyl]methanol
A solution of 3-(methylsulfonyl)benzoic acid (1.0 g, 5.0 mmol) in anhydrous THF (25 mL) was treated with BH3.THF (1 M solution, 7.5 mL) at room temperature. The reaction was stirred for 12 hours before it was quenched by slow addition of MeOH. The solvent was removed and the residue was purified by flash column chromatography (0–5% MeOH in CH2Cl2) to give the product (0.84 g, 90% yield). 1H NMR (300 MHz, CDCl3) δ: 3.06 (s, 3 H), 4.81 (d, J=6.0 Hz, 2 H), 7.54–7.59 (m, 1 H), 7.65–7.68 (m, 1 H), 7.85–7.88 (m, 1 H), 7.96 (s, 1 H).

reactant | 3-(methylsulfonyl)benzoic acid | 5.0 mmol, 1.0 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
reactant | BH3.THF | 1 M, 7.5 mL | B.C1CCOC1
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | [3-(methylsulfonyl)phenyl]methanol | 0.84 g, 90% yield | CS(=O)(=O)C=1C=C(C=CC1)CO | C8H10O3S
